US05990142
18C 4-(4-Phenylbutoxy)benzyl alcohol
A suspension of lithium aluminium hydride (309 mg, 7.62 mmol) in anhydrous tetrahydrofuran (65 ml) was added under inert atmosphere with a solution of 4-(4-phenylbutoxy)benzoic acid (1.03 g, 3.81 mmol) in 20 ml of dry ethyl ether. The mixture was left under stirring at room temperature for 2 hours, after that was added slowly with a NaCl saturated solution in water (80 ml), the two phases were separated and the aqueous one was extracted with ethyl acetate (3×50 ml). The organic extracts were dried and the solvent was evaporated off to obtain a crude, which was digested with ethyl ether. The digestion extracts were evaporated under reduced pressure to obtain 556 mg of the title compound (57% yield).

reactant | lithium aluminium hydride | 7.62 mmol, 309 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-(4-phenylbutoxy)benzoic acid | 3.81 mmol, 1.03 g | C1(=CC=CC=C1)CCCCOC1=CC=C(C(=O)O)C=C1 | C17H18O3
reactant | NaCl | [Na+].[Cl-]
solvent | tetrahydrofuran | 65 ml | O1CCCC1 | C4H8O
solvent | ethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | water | 80 ml | O | H2O
product | 4-(4-Phenylbutoxy)benzyl alcohol | 556 mg, 57% yield | C1(=CC=CC=C1)CCCCOC1=CC=C(CO)C=C1 | C17H20O2
